US05102578
150 mg of sodium hydride (as a 50 percent suspension in oil) is suspended in 10 ml of absolute tetrahydrofuran and then treated dropwise at room temperature within 3 minutes with a solution of 0.5 g of [trans-4-[trans-4-(methoxymethyl)cyclohexyl]cyclohexyl]methanol in 8 ml of absolute tetrahydrofuran. The mixture is stirred for a further 5 minutes, then treated with 0.755 g of allyl bromide and stirred under reflux (bath temperature 70° C.) for 16 hours. Thereafter, the reaction mixture is partitioned in diethyl ether/water and extracted three times with diethyl ether. The organic phases are washed twice with water, dried over magnesium sulphate, filtered and evaporated. Chromatographic purification of the resulting crude product on silica gel with ethyl acetate/petroleum ether (vol. 3:97) gives [trans-4-[trans-4-(methoxymethyl)cyclohexyl]cyclohexyl]methyl allyl ether.

reactant | sodium hydride | 150 mg | [H-].[Na+]
reactant | [trans-4-[trans-4-(methoxymethyl)cyclohexyl]cyclohexyl]methanol | 0.5 g | COC[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CO | C15H28O2
reactant | allyl bromide | 0.755 g | C(C=C)Br | C3H5Br
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | [trans-4-[trans-4-(methoxymethyl)cyclohexyl]cyclohexyl]methyl allyl ether | C(C=C)OC[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)COC | C18H32O2
